US04786637
Morpholinoethyl E-6-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl)-4-methyl-4-hexenoate (10.0 g) was dissolved in pyridine (50.0 ml) followed by the addition of acetic anhydride (10.0 ml). The mixture was stirred at room temperature for 90 minutes, then poured into water and extracted with ethyl acetate. The organic solution was dried and evaporated to give morpholinoethyl E-6-(1,3-dihydro-4-acetoxy-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl)-4-methyl-4-hexenoate.

reactant | Morpholinoethyl E-6-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl)-4-methyl-4-hexenoate | 10.0 g | OC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OCCN1CCOCC1)\C)OC)C)=O | C23H31NO7
reactant | acetic anhydride | 10.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | pyridine | 50.0 ml | N1=CC=CC=C1 | C5H5N
product | morpholinoethyl E-6-(1,3-dihydro-4-acetoxy-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl)-4-methyl-4-hexenoate | C(C)(=O)OC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OCCN1CCOCC1)\C)OC)C)=O | C25H33NO8
